US06090571
e. Phenyl 2,7-difluoroacridan-9-thiocarboxylate
Phenyl 2,7-difluoroacridine-9-thiocarboxylate (1.2 g) was suspended in 2-propanol (125 mL) along with NH4Cl (4.57 g). Zinc (5.5 g) was added and the reaction mixture was warmed for 2.5 h followed by a 1.5 h period at room temperature. TLC of the reaction mixture showed complete conversion to a new material. The solution was filtered and the precipitate was washed with CH2Cl2. The filtrate was concentrated and the light orange residue was redissolved in CH2Cl2 and washed with water (2×100 mL). The organic layer was dried over Na2SO4 and concentrated to yield the crude product which was used without further purification. 1H NMR (CDCl3) δ5.12 (s, 1H), 6.19 (br s, 1H), 6.72-7.35 (m, 11H).

reactant | Phenyl 2,7-difluoroacridine-9-thiocarboxylate | 1.2 g | FC1=CC2=C(C3=CC(=CC=C3N=C2C=C1)F)C(OC1=CC=CC=C1)=S | C20H11F2NOS
reactant | NH4Cl | 4.57 g | [NH4+].[Cl-]
solvent | 2-propanol | 125 mL | CC(C)O | C3H8O
catalyst | Zinc | 5.5 g | [Zn] | Zn
product | Phenyl 2,7-difluoroacridan-9-thiocarboxylate | FC1=CC=2C(C3=CC(=CC=C3NC2C=C1)F)C(OC1=CC=CC=C1)=S | C20H13F2NOS
